Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Concern for seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ year old woman with a history of 
Alzheimer's
dementia, who presents from ___ as a transfer for concern
for seizure. 

In the ED, neurology consulted and able to obtain a very 
thorough
history through review of Partners records and collateral from
the son. Per report, she was in her normal state of health until
0900 today when he woke her up and thought she felt warm. She
stood up for <1 minute after when she fell (he caught her, no
head strike). He felt like she was dead weight, eyes half open
and rolled back in her head, but no other signs of seizure. This
lasted for about 30 seconds before she returned to normal. 

EMS was called and brought her to ___ and she appeared at
baseline until 1300 when she reportedly had another event
witnessed by the nurse when she slumped over in the bathroom. 
She
again returned to baseline quickly. 

A CT head was done and normal. CXR normal. WBC elevated to 16.3.
UA, Flu, and RSV negative. 

The son also reported that this is her third episode like this 
in
___ years (the first about ___ years ago, second in ___. 
She
was started on levetiracetam and followed up with her 
neurologist
Dr. ___ at ___ who stopped the AED given low suspicion and 
a
normal routine EEG. 
 
Upon arrival to the floor, the patient repeatedly is asking me
where she is and if she is going to Church tomorrow. I explained
to her that she is in the hospital, and then she immediately
asked me the same questions again. Denies any abdominal or chest
pain. 

REVIEW OF SYSTEMS:
 
Past Medical History:
• Alzheimer's dementia
• Hyperlipidemia
• ?Hyperthyroidism 
 
Social History:
___
Family History:
No history of seizure
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VITALS:  ___ 0250 Temp: 98.5 PO BP: 149/70 HR: 83 RR: 18 O2
sat: 95% O2 delivery: Ra 
General: Alert, oriented only to self, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, no rebound or guarding 

Ext: Warm, well perfused 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact 

DISCHARGE PHYSICAL EXAM
=========================
VITALS: 24 HR Data (last updated ___ @ 059)
    Temp: 98.5 (Tm 99.1), BP: 112/60 (112-163/60-77), HR: 75
(72-89), RR: 18 (___), O2 sat: 96% (94-97), O2 delivery: Ra  
General: In NAD  
HEENT: Sclerae anicteric, PERRL, MMM, oropharynx clear
CV: RRR, no murmurs/gallops/rubs
Lungs: CTAB, no crackles/wheezing/rhonchi
Abdomen: Soft, non-tender, non-distended
Ext: Warm, well perfused, no ___ edema 
Skin: No visible rashes 
Neuro: A&Ox1, answers questions appropriately but very 
forgetful,
CNII-XII intact, motor and sensation grossly intact
 
Pertinent Results:
___ 07:56PM BLOOD WBC-23.4* RBC-5.11 Hgb-12.1 Hct-39.4 
MCV-77* MCH-23.7* MCHC-30.7* RDW-15.6* RDWSD-43.1 Plt ___
___ 07:56PM BLOOD Neuts-85.9* Lymphs-3.2* Monos-9.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-20.08* AbsLymp-0.76* 
AbsMono-2.20* AbsEos-0.00* AbsBaso-0.04
___ 07:00AM BLOOD Glucose-87 UreaN-23* Creat-0.8 Na-140 
K-3.4* Cl-110* HCO3-21* AnGap-9*
___ 07:00AM BLOOD TSH-1.8
___ 07:00AM BLOOD calTIBC-196* Ferritn-202* TRF-151*
___ 05:16PM BLOOD Lactate-1.6
___ 05:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:00AM BLOOD ALT-11 AST-14 AlkPhos-48 TotBili-0.7
___ 06:50AM BLOOD WBC-11.7* RBC-4.41 Hgb-10.3* Hct-33.4* 
MCV-76* MCH-23.4* MCHC-30.8* RDW-15.8* RDWSD-43.3 Plt ___
___ 06:50AM BLOOD Glucose-87 UreaN-17 Creat-0.8 Na-143 
K-3.9 Cl-111* HCO3-24 AnGap-8*
 
Brief Hospital Course:
___ w/ PMH Alzheimer's dementia p/w presyncope, fever and 
leukocytosis, found to have C. diff colitis

ACUTE ISSUES
==============
#C diff colitis: 
Patient unable to report symptoms, however with fever, diarrhea, 
leukocytosis, and CT A/P w/ evidence of colitis. She was found 
to be C. diff PCR and toxin positive. She was started on PO 
vancomycin on admission, as well as cipro/Flagyl for empiric 
colitis, which were discontinued once her C. diff resulted. Her 
leukocytosis improved and she was afebrile for 24h prior to D/C. 
She should complete a course of PO vanc until ___.

#Pre-syncope 
Felt to be ___ orthostasis iso diarrhea, no further events while 
inpatient. Given prior history of seizures, evaluated by 
Neurology in the ED who felt not a likely etiology. She didn't 
demonstrate orthostatic vitals, ambulated without issues, and 
received fluid resuscitation prior to D/C. No arrhythmia on 
telemetry.

#Iron deficiency anemia
Patient on admission w/ Hgb 12.1, felt to be hemoconcentrated 
from hypovolemia. Her iron studies were consistent with iron 
deficiency. Per her son, has not had a colonoscopy recently and 
prior ones had been unremarkable. Her Hgb slowly downtrended 
while hospitalized with no signs of bleeding. Discharge Hgb was 
10.3. Recommend discussion about outpatient work up of her 
anemia if within her goals of care. 

CHRONIC ISSUES
================= 
#Alzheimer's dementia
Continued home donepezil and memantine

#Hx of hypokalemia
Continued home potassium 

#Hyperthyroidism
Continued home PTU

#Hyperlipidemia
Continued home statin

#CODE: Full (confirmed)
#CONTACT: ___Son) ___

TRANSITIONAL ISSUES
====================
[] Patient w/ iron deficiency anemia, discharge Hgb 10.3. If 
within GOC, work up for iron deficiency anemia should be pursued 
- endoscopy/colonoscopy
[] Evaluated by Neuro for possible seizure, was not felt to have 
contributed to presentation. An outpatient EEG with her 
neurologist could be further pursued. 
[] Incidental 3 mm lung nodule in the right upper lobe; no CT 
scan required if low risk patient, optional CT Chest in 12 
months is recommended in a high-risk patient. 
[] Please encourage hydration. Son was educated that in the 
future he should lie the patient flat during an episode, as 
propping her up will prolong the episode (if it is syncope) and 
could be more dangerous to the patient if she does proceed to 
have a convulsive seizure.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Propylthiouracil 50 mg PO BID 
3. Potassium Chloride 10 mEq PO DAILY 
4. Memantine 28 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
7. Vitamin D Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*30 Capsule Refills:*0 
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Donepezil 10 mg PO QHS  
5.  Memantine 28 mg PO DAILY  
6.  Potassium Chloride 10 mEq PO DAILY  
7.  Propylthiouracil 50 mg PO BID  
8.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
C. diff colitis
Presyncope
Iron deficiency anemia
SECONDARY DIAGNOSIS
=====================
Alzheimer's dementia
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Miss ___, 

You were admitted to the hospital because you almost fainted at 
home.

WHAT HAPPENED IN THE HOSPITAL?
You were found to have an infection in your intestines called C. 
diff which caused you to have diarrhea and lose fluids. We gave 
you antibiotics and fluids to make you feel better. Your blood 
count was a little low but there were no signs of bleeding. 

WHAT ARE THE NEXT STEPS?
- Please continue taking the antibiotic, vancomycin, until ___
- If you feel lightheaded when standing, try to sit down slowly 
until the dizziness goes away. 
- Please follow up with your PCP as below

___ was a pleasure taking care of you!

Your ___ Care Team
 
Followup Instructions:
___